US08629167B2
4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
A 250 mL round bottomed flask was charged with 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(4-methoxybenzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (1.76 g, 2.84 mmol), methylene chloride-H2O (20:1, 80 mL) and 2,3-Dichloro-5,6-Dicyanobenzoquinone (3.87 g, 17.05 mmol). The reaction mixture was stirred at room temperature for 36 h and a saturated aqueous solution of sodium hydrogen carbonate (30 mL) was added followed by methylene chloride (70 mL). The phases were partitioned and the aqueous phase extracted with methylene chloride (60 mL) (×3). The combined organic extracts were dried (Na2SO4) and concentrated to furnish a white solid (1.33 g, 91%). 1H NMR (500 MHz, acetone d6, δ in ppm) δ 9.17 (br s, 1H), 7.85 (d, J=9 Hz, 2H), 7.47 (d, J=9 Hz, 1H), 6.99 (d, J=9 Hz, 2H), 6.84 (d, J=9 Hz, 1H), 6.65 (d, J=9 Hz, 1H), 5.52 (d, J=9 Hz), 5.18 (dd, J=2 and 9 Hz, 1H), 4.74-4.68 (m, 1H), 2.41 (s, 3H), 1.46 (d, J=6 Hz, 3H), 0.86 (s, 9H), 0.1 (s, 3 H) and −0.35 (s, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(4-methoxybenzyloxy)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 2.84 mmol, 1.76 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C33H39ClN4O4Si
reactant | methylene chloride H2O | 80 mL | C(Cl)Cl.O
reactant | 2,3-Dichloro-5,6-Dicyanobenzoquinone | 17.05 mmol, 3.87 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 1.33 g, 91% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)O)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H31ClN4O3Si
